US06635655B1
{2-Methyl-6-[3-(quinolin-2-ylamino)-propoxymethyl]-phenoxy}-acetonitrile
MS (ESI) 362 (M+H)+. Prepared from 3-(quinolin-2-ylamino)-propan-1-ol and (2-bromomethyl-6-methyl-phenoxy)-acetonitrile.

reactant | 3-(quinolin-2-ylamino)-propan-1-ol | N1=C(C=CC2=CC=CC=C12)NCCCO | C12H14N2O
reactant | (2-bromomethyl-6-methyl-phenoxy)-acetonitrile | BrCC1=C(OCC#N)C(=CC=C1)C | C10H10BrNO
product | {2-Methyl-6-[3-(quinolin-2-ylamino)-propoxymethyl]-phenoxy}-acetonitrile | CC1=C(OCC#N)C(=CC=C1)COCCCNC1=NC2=CC=CC=C2C=C1 | C22H23N3O2
